US09145441B2
Compound 100c. (E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2-[1-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethyl]-2-methyl-but-3-enoic acid
A solution of 2-[1-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethyl]-2-methyl-but-3-enoic acid (258 mg, 0.95 mmol), acetic acid (R)-1-(7-bromo-quinolin-2-yl)-ethyl ester (279 mg, 0.95 mmol), palladium(II) acetate (43 mg, 0.19 mmol), tris-(o-tolyl)phosphine (87 mg, 0.29 mmol) in anhydrous acetonitrile (3 mL) was treated with triethylamine (265 μL, 1.90 mmol). After stirring at 100° C. under microwave for 20 min, the reaction was cooled to room temperature and the volatiles were removed in vacuo. The residue was partitioned between dichloromethane and a saturated potassium hydrogen sulfate solution. The organics were combined and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 25 g Biotage cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 0:1 to afford the title compound (300 mg, 65%) as a colourless oil. 1H NMR (300 MHz, CDCl3) δ 0.20 (s, 3H), 0.22 (s, 3H), 0.94 (s, 9H), 1.44 (s, 3H), 1.45 (s, 3H), 1.50 (s, 3H), 1.68 (d, J=6.7 Hz, 3H), 2.17 (s, 3H), 6.06 (q, J=6.7 Hz, 1H), 6.76 (m, 2H), 7.43 (d, J=8.5 Hz, 1H), 7.62 (d, J=8.5 Hz, 1H), 7.74 (d, J=8.7 Hz, 1H), 8.03 (s, 1H), 8.11 (d, J=8.5 Hz, 1H). LCMS (m/z) 486.3 [M+H], Tr=3.64 min.

reactant | 2-[1-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethyl]-2-methyl-but-3-enoic acid | 0.95 mmol, 258 mg | C(C)(C)(C)[Si](OC(C)(C)C(C(=O)O)(C=C)C)(C)C | C14H28O3Si
reactant | acetic acid (R)-1-(7-bromo-quinolin-2-yl)-ethyl ester | 0.95 mmol, 279 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O | C13H12BrNO2
reactant | tris-(o-tolyl)phosphine | 0.29 mmol, 87 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 1.90 mmol, 265 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 0.19 mmol, 43 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2-[1-(tert-butyl-dimethyl-silanyloxy)-1-methyl-ethyl]-2-methyl-but-3-enoic acid | 300 mg, 65% | C(C)(=O)O[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O)(C)C(C)(C)O[Si](C)(C)C(C)(C)C | C27H39NO5Si
